US06548538B2
1,1-Dimethylethyl 2-[[4-[2-[(carboxymethyl)(2-furanylmethyl)amino]ethyl]phenyl]-thio]-2-methyl-propanoate
1.0 g of 1,1-dimethylethyl 2-[[4-[2-[(2-ethoxy-2-oxoethyl)(2-furanylmethyl)amino]-ethyl]phenyl]-thio]-2-methyl-propanoate is treated with 6.5 ml of 1 N NaOH in 10 ml of ethanol. The mixture is stirred at 80° C. for 1 h, concentrated, dissolved in water and acidified with 1 N HCl. Three extractions with ethyl acetate and chromatography (dichloromethane/methanol 5+1) gives 744 mg as a colourless oil.

reactant | 1,1-dimethylethyl 2-[[4-[2-[(2-ethoxy-2-oxoethyl)(2-furanylmethyl)amino]-ethyl]phenyl]-thio]-2-methyl-propanoate | 1.0 g | C(C)OC(CN(CCC1=CC=C(C=C1)SC(C(=O)OC(C)(C)C)(C)C)CC=1OC=CC1)=O | C25H35NO5S
reactant | NaOH | 1 N, 6.5 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1,1-Dimethylethyl 2-[[4-[2-[(carboxymethyl)(2-furanylmethyl)amino]ethyl]phenyl]-thio]-2-methyl-propanoate | C(=O)(O)CN(CCC1=CC=C(C=C1)SC(C(=O)OC(C)(C)C)(C)C)CC=1OC=CC1 | C23H31NO5S
